US07384963B2
N-(2-Chlorobenzyl)-N-ethyl-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from N-(2-chlorobenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide and iodoethane using method L. NMR; δH [2H6]—DMSO 7.89,(1H, d), 7.77,(1H, b), 7.58-7.32,(9H, m), 4.76-4.60,(2H, m), 3.42-3.27,(2H, b), 2.56,(3H, s), 2.32-2.28,(3H, m), 1.08,(3H, b). LCMS; retention time 3.66 min, MH+ 446/448.

reactant | N-(2-chlorobenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | ClC1=C(CNC(=O)C2=CC=C(C=C2)C2=C(C=CC(=C2)C=2OC(=NN2)C)C)C=CC=C1 | C24H20ClN3O2
reactant | iodoethane | ICC | C2H5I
product | N-(2-Chlorobenzyl)-N-ethyl-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | ClC1=C(CN(C(=O)C2=CC=C(C=C2)C2=C(C=CC(=C2)C=2OC(=NN2)C)C)CC)C=CC=C1 | C26H24ClN3O2
